US05948932
Synthesis of pentane-2,3,4-trione 4-(O-methyl oxime)-2-oxime
10.3 g (0.1 mol) of n-butyl nitrite and then 54 g of a 30% strength solution of sodium methylate in methanol are carefully added dropwise at 10° C. to a solution of 12.9 g (0.1 mol) of pentane-2,3-dione 2-(O-methyl oxime) in 120 ml of methanol. The mixture is allowed to come to room temperature and is stirred for 12 hours at this temperature. The mixture is worked up by adding dilute hydrochloric acid to a pH of 7 and subsequent evaporation in vacuo. The residue is taken up in 100 ml of water and extracted twice using in each case 100 ml of diethyl ether. The organic phase is dried over sodium sulfate and evaporated in vacuo. This gives 7.7 g (49%) of an oil.

reactant | n-butyl nitrite | 0.1 mol, 10.3 g | N(=O)OCCCC | C4H9NO2
reactant | sodium methylate | C[O-].[Na+]
reactant | pentane-2,3-dione 2-(O-methyl oxime) | 0.1 mol, 12.9 g | CON=C(C)C(CC)=O | C6H11NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 120 ml | CO | CH4O
product | pentane-2,3,4-trione 4-(O-methyl oxime)-2-oxime | CON=C(C(C(C)=NO)=O)C | C6H10N2O3
